THS4131 Differential Amplifier - Unity Gain
* Supply: +/-5V, Input: 100mV DC on non-inverting, VOCM=0V
* Unity gain: Rf=Rg=1k
*
.include ths4131.lib
*
* Power supplies
VCC vcc 0 DC 5
VEE vee 0 DC -5
*
* Input signal
Vin inp 0 DC 0.1 AC 1
*
* Feedback network (unity gain: Rf = Rg)
Rg1 inp in_p 1k
Rf1 out_p in_p 1k
Rg2 0 in_n 1k
Rf2 out_n in_n 1k
*
* VOCM reference
Vvocm vocm 0 DC 0
*
* Op-amp instance
X1 in_p in_n vcc vee out_p out_n vocm THS4131
*
* Load resistors
Rload1 out_p 0 1k
Rload2 out_n 0 1k
*
.op
.ac dec 100 1 100e6
.end
